US09227978B2
tert-Butyl 4-((5-bromo-4-chloro-2-methoxybenzyl)(2,4-dimethoxybenzyl)carbamoyl)piperidine-1-carboxylate
The mixture of N-(5-bromo-4-chloro-2-methoxybenzyl)-1-(2,4-dimethoxyphenyl)methanamine (190 mg, 0.47 mmol), 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid (109 mg, 0.47 mmol), HATU (180 mg, 0.47 mmol) and Et3N (101 mg, 1 mmol) in DMF (5 mL) was stirred at room temperature for 4 h. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to afford the desired product. The crude product was used directly in the next step without further purification.

reactant | N-(5-bromo-4-chloro-2-methoxybenzyl)-1-(2,4-dimethoxyphenyl)methanamine | 0.47 mmol, 190 mg | BrC=1C(=CC(=C(CNCC2=C(C=C(C=C2)OC)OC)C1)OC)Cl | C17H19BrClNO3
reactant | 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | 0.47 mmol, 109 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | HATU | 0.47 mmol, 180 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 1 mmol, 101 mg | CCN(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-((5-bromo-4-chloro-2-methoxybenzyl)(2,4-dimethoxybenzyl)carbamoyl)piperidine-1-carboxylate | BrC=1C(=CC(=C(CN(C(=O)C2CCN(CC2)C(=O)OC(C)(C)C)CC2=C(C=C(C=C2)OC)OC)C1)OC)Cl | C28H36BrClN2O6
